US07544835B2
Dimethyl 2-(4-methoxy-3-{[(4-toluidinocarbonyl)oxy]methyl}benzyl)malonate
Using dimethyl 2-(3-(hydroxymethyl)-4-methoxybenzyl]malonate and p-tolylisocyanate, the title compound was obtained in the same manner as described in Example 192b).

reactant | dimethyl 2-(3-(hydroxymethyl)-4-methoxybenzyl]malonate | OCC=1C=C(CC(C(=O)OC)C(=O)OC)C=CC1OC | C14H18O6
reactant | p-tolylisocyanate | C1(=CC=C(C=C1)N=C=O)C | C8H7NO
product | Dimethyl 2-(4-methoxy-3-{[(4-toluidinocarbonyl)oxy]methyl}benzyl)malonate | COC1=C(C=C(CC(C(=O)OC)C(=O)OC)C=C1)COC(=O)NC1=CC=C(C=C1)C | C22H25NO7
